US05250679
A magnetically stirred solution of 1.1 gram of N-(2-amino-5-iodobenzoyl)-b-alanine ethyl ester (3.1 mmol), prepared by the method shown in part (b) of example 1, 0.48 mL of 2,6-lutidine (4.1 mmol), 1.2 grams of chlorodiphenylmethane (4.7 mmol), and 10 mL of dimethylformamide was heated to 50° C. for 1 hour. The reaction mixture was allowed to cool to room temperature and concentrated in vacuo. The resulting oil was dissolved in 35 mL of methylene chloride and washed with 2×50 mL 10% citric acid, 1×50 mL water, dried over sodium sulfate, decanted and concentrated in vacuo. The resulting oil was further purified by column chromatography, using silica gel, eluting with a solvent gradient of 10/90 ethyl acetate/hexane to 25/75 ethyl acetate/hexane (TLC, SiO2, 1:1 EtOAc/hexane, Rf =0.82, υν positive) to yield 0.92 gram (56%) of N-(2-diphenylmethylamino-5-iodobenzoyl)-b-alanine ethyl ester. 1H NMR (CDCl3, dTMS) 8.40 (1H, d, 3JHH =5 Hz, NHCHAr2), 7.56 (1H, d, 3JHH =2 Hz, ArH o-CON), 7.18-7.36 (1H, m, 4JHH =2 Hz, ArH Ph, ArH p-CON), 6.73 (1H, t, 3JHH =6 Hz, NHCH2), 6.29 (1H, d, 3JHH =9 Hz, ArH m-CON), 5.52 (1H, d, 3JHH =5 Hz, CHNH), 4.15 (2H, q, 3JHH =7 Hz, OCH2), 3.61 (2H, q, 3JHH =6 Hz, CH2NH), 2.58 (2H, t, 3JHH =6 Hz, CH2CO), 1.25 (3H, t, 3JHH =6 Hz, CH3CH2O).

reactant | N-(2-amino-5-iodobenzoyl)-b-alanine ethyl ester | 3.1 mmol, 1.1 gram | C(C)OC(CCNC(C1=C(C=CC(=C1)I)N)=O)=O | C12H15IN2O3
reactant | 2,6-lutidine | 4.1 mmol, 0.48 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | chlorodiphenylmethane | 4.7 mmol, 1.2 grams | ClC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Cl
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-(2-diphenylmethylamino-5-iodobenzoyl)-b-alanine ethyl ester | 0.92 gram, 56% | C(C)OC(CCNC(C1=C(C=CC(=C1)I)NC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C25H25IN2O3
